US07414116B2
3-[2-Azido-2-(2-hydroxy-ethoxy)-ethoxy]-benzoic acid ethyl ester
To a mixture of 3-([1,3]-dioxolan-2-ylmethoxy)-benzoic acid ethyl ester (2.02 g, 8 mmol) and azidotrimethylsilane (1.17 ml, 8.8 mmol) was added SnCl4 (60 μl) at room temperature under nitrogen. After 2 hr, 2% aqueous methanol (10 ml) was added to the reaction mixture and the reaction was stirred at room temperature for 30 minutes. All the solvents were evaporated under reduced pressure. The residue was co-evaporated with ethanol (2×10 ml). The residue was purified by a column chromatography (3×20 cm). The product was eluted with 0 to 1% methanol in DCM. The title compound was obtained as a colourless oil (2.01 g, 85.1%). APCI-MS, m/z 267.90 (M-N2+1)

reactant | 3-([1,3]-dioxolan-2-ylmethoxy)-benzoic acid ethyl ester | 8 mmol, 2.02 g | C(C)OC(C1=CC(=CC=C1)OCC1OCCO1)=O | C13H16O5
reactant | azidotrimethylsilane | 8.8 mmol, 1.17 ml | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | SnCl4 | 60 μl | Cl[Sn](Cl)(Cl)Cl
solvent | methanol | 10 ml | CO | CH4O
product | 3-[2-Azido-2-(2-hydroxy-ethoxy)-ethoxy]-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)OCC(OCCO)N=[N+]=[N-])=O | C13H17N3O5
